US07521462B2
To a mixture of water (850 ml) and concentrated hydrochloric acid (240 ml) is added a solution of 4-{[(2,4-dichloro-thiazol-5-yl)methyl]-isobutyl-amino}-piperidine-1-carboxylic acid t-butyl ester (304.5 g, 0.72 mol) in THF (600 ml) dropwise at 65° C. The addition and reaction are complete in 40 minutes. THF is then stripped under vacuum; residual aqueous layer is extracted with 2 L MTBE (to remove remaining (2,4-dichloro-thiazol-5-yl)-methanol). Neutralized by addition of NaOH (30%, 200 ml) and extracted twice with MTBE (1.5 L). Combined organic layers are washed with brine (3 L) then clarified (to remove insoluble). The organic layer is then concentrated under vacuum to afford 220 g of N-(2-methylpropyl)-N-[(2,4-dichloro-1,3-thiazol-5-yl)methyl]piperidin-4-amine as a pink powder. Yield 95% (HPLC=99% area). Mass spectrum (ion spray): m/z=322 (M+1); 1H NMR (400 MHz, CDCl3): δ=3.73 (2H, s), 3.17 (2H, m), 2.56 (3H, m). 2.31 (2H, d), 2.17 (1H, s, NH), 1.76 (2H, m), 1.68 (1H, m), 1.46 (2H, m), 0.92 (6H, d); 13C NMR (100 MHz, CDCl3): δ=20.6, 27.09, 28.88, 46.39, 47.20, 58.10, 58.52, 131.88, 137.30, 150.13.

reactant | water | 850 ml | O | H2O
reactant | hydrochloric acid | 240 ml | Cl | ClH
reactant | 4-{[(2,4-dichloro-thiazol-5-yl)methyl]-isobutyl-amino}-piperidine-1-carboxylic acid t-butyl ester | 0.72 mol, 304.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CC(C)C)CC1=C(N=C(S1)Cl)Cl | C18H29Cl2N3O2S
solvent | THF | 600 ml | C1CCOC1 | C4H8O
product | N-(2-methylpropyl)-N-[(2,4-dichloro-1,3-thiazol-5-yl)methyl]piperidin-4-amine | 220 g, Yield 95% | CC(CN(C1CCNCC1)CC1=C(N=C(S1)Cl)Cl)C | C13H21Cl2N3S
